US05840751
6-(3,5-Dichlorophenyl)-5,6-dihydro-4-hydroxy- 2H-pyran-2-one, (+/-)
The title compound was prepared as described in General Method 1 using 2.5 mL of methyl acetoacetate, 1.0 g of NaH 60% dispersion in oil, 12.5 mL of 2.0M n-butyl lithium in hexane, 5.1 g of 3,5-dichlorobenzaldehyde and 75 mL of tetrahydrofuran. After addition of the aldehyde, the reaction was stirred for 10 minutes at 0° C. then allowed to warm to room temperature overnight. The crude product was triturated from diethyl ether to afford a solid (m.p. 135°-137° C.). 1H NMR (CDCl3) δ 2.78 (dd, 1 H), 2.97 (dd, 1 H), 3.63 (dd, 2 H), 5.64 (dd, 1 H), 7.31-7.40 (m, 3 H).

reactant | methyl acetoacetate | 2.5 mL | C(CC(=O)C)(=O)OC | C5H8O3
reactant | NaH | 1.0 g | [H-].[Na+]
reactant | n-butyl lithium | 2.0M, 12.5 mL | C(CCC)[Li]
reactant | 3,5-dichlorobenzaldehyde | 5.1 g | ClC=1C=C(C=O)C=C(C1)Cl | C7H4Cl2O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 75 mL | O1CCCC1 | C4H8O
product | 6-(3,5-Dichlorophenyl)-5,6-dihydro-4-hydroxy- 2H-pyran-2-one | ClC=1C=C(C=C(C1)Cl)C1CC(=CC(O1)=O)O | C11H8Cl2O3
